US07034039B2
A mixture of triphenyl(1,3-thiazol-4-ylmethyl)phosphonium chloride (0.44 g, 1.1 mmol), potassium carbonate (15 g, 1.1 mmol) and tert-butyl(4-butoxy-6-formyl-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.47 g, 1.1 mol) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 10 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting crystals were recrystallized from ethyl acetate-diisopropyl ether to give tert-butyl{4-butoxy-2-isobutyl-1-oxo-6-[(E)-2-(1,3-thiazol-4-yl)ethenyl]-1,2-dihydro-3-isoquinolinyl}methylcarbamate (0.46 g, 80.7%) as crystals.

reactant | triphenyl(1,3-thiazol-4-ylmethyl)phosphonium chloride | 1.1 mmol, 0.44 g | [Cl-].C1(=CC=CC=C1)[P+](CC=1N=CSC1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 1.1 mmol, 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl(4-butoxy-6-formyl-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 1.1 mol, 0.47 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=O)=O)CC(C)C)=O | C24H34N2O5
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | tert-butyl{4-butoxy-2-isobutyl-1-oxo-6-[(E)-2-(1,3-thiazol-4-yl)ethenyl]-1,2-dihydro-3-isoquinolinyl}methylcarbamate | 0.46 g, 80.7% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)\C=C\C=1N=CSC1)=O)CC(C)C)=O | C28H37N3O4S
